US05116841
3-(5-cyclopropyl-3-isoxazolyl)-4,5-dihydro-5-isopropyl-4-oxo-imidazo[1,5-a]quinoxaline
To a suspension of 3-(3-cyclopropyl-1-hydroximino-3-oxopropyl)-4,5-dihydro-5-isopropyl-4-oxo-imidazo[1,5-a]quinoxaline (0.3 g) in ethanol (25 ml) was added one drop of 4 M hydrochloric acid and the mixture was heated at reflux for 10 min. Cooling the resulting solution to room temperature gave the title compound as a white crystalline precipitate, which was collected by filtration and dried. M.p. 247°-249° C. (Compound 8).

reactant | 3-(3-cyclopropyl-1-hydroximino-3-oxopropyl)-4,5-dihydro-5-isopropyl-4-oxo-imidazo[1,5-a]quinoxaline | 0.3 g | C1(CC1)C(CC(=NO)C=1N=CN2C1C(N(C1=CC=CC=C21)C(C)C)=O)=O | C19H20N4O3
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 4 M, one drop | Cl | ClH
product | 3-(5-cyclopropyl-3-isoxazolyl)-4,5-dihydro-5-isopropyl-4-oxo-imidazo[1,5-a]quinoxaline | C1(CC1)C1=CC(=NO1)C=1N=CN2C1C(N(C1=CC=CC=C21)C(C)C)=O | C19H18N4O2
